US07473787B2
Thiophene-2-carboxylic acid [3-(4-ethyl-benzoyl)-3-aza-bicyclo[3.1.0]hex-6-ylmethyl]-(3-fluoro-4-morpholin-4-yl-phenyl)-amide
To a stirring solution of thiophene-2-carboxylic acid (3-aza-bicyclo[3.1.0]hex-6-ylmethyl)-(3-fluoro-4-morpholin-4-yl-phenyl)-amide (50 mg, 0.13 mmol) in 3 mL of anhydrous CH2Cl2, was added DIEA (0.065 mL, 0.37 mmol), followed by 4-ethylbenzoyl chloride (0.02 mL, 0.14 mmol). The reaction was stirred at room temperature for 1 hour, quenched with saturated NaHCO3, and extracted with CH2Cl2. The combined extracts were dried over anhydrous MgSO4, filtered and concentrated. The resulting crude material was purified via flash chromatography with 75% EtOAc/hexanes. The product containing fractions were collected and concentrated to yield 50 mg of a clear colorless oil. 400 MHz 1H NMR (CDCl3) δ 7.25-7.28 (m, 3H), 7.14-7.16 (m, 2H), 6.82-6.92 (m, 4H), 6.76-6.78 (m, 1H), 4.02-4.09 (m, 1H), 3.84-3.91 (m, 5H), 3.48-3.54 (m, 2H), 3.37-3.44 (m, 2H), 3.08-3.11 (m, 4H), 2.60 (q, 2H), 1.45 (s, 2H), 1.16-1.19 (m, 3H), 0.82-0.85 (m, 1H); MS (M+1) 534.2.

reactant | thiophene-2-carboxylic acid (3-aza-bicyclo[3.1.0]hex-6-ylmethyl)-(3-fluoro-4-morpholin-4-yl-phenyl)-amide | 0.13 mmol, 50 mg | C12CNCC2C1CN(C(=O)C=1SC=CC1)C1=CC(=C(C=C1)N1CCOCC1)F | C21H24FN3O2S
reactant | DIEA | 0.37 mmol, 0.065 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-ethylbenzoyl chloride | 0.14 mmol, 0.02 mL | C(C)C1=CC=C(C(=O)Cl)C=C1 | C9H9ClO
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | Thiophene-2-carboxylic acid [3-(4-ethyl-benzoyl)-3-aza-bicyclo[3.1.0]hex-6-ylmethyl]-(3-fluoro-4-morpholin-4-yl-phenyl)-amide | 50 mg | C(C)C1=CC=C(C(=O)N2CC3C(C3C2)CN(C(=O)C=2SC=CC2)C2=CC(=C(C=C2)N2CCOCC2)F)C=C1 | C30H32FN3O3S
